US05795983
A solution of 24 g of bentazone (IIa) in 216 g of 1,2-dichloroethane was treated with stirring at 50°-60° C. with 34 g of ammonia water (5% strength solution of ammonia in water). After addition was complete, the aqueous phase was separated off at 50°-60° C. On cooling the aqueous phase, the bentazone-ammonium was deposited in crystalline form. The solid was separated off at 20° C. by filtration and freed from solvent residues under reduced pressure and at 50° C. 11.8 g of bentazone-ammonium (m.p. 180° C.) were obtained. By evaporating the water from the mother liquor under reduced pressure and at 50°-60° C., a further 13.7 g of bentazone-ammonium were obtained.

reactant | bentazone | 24 g | CC(C)N1C(=O)C2=CC=CC=C2NS1(=O)=O | C10H12N2O3S
reactant | ammonia water | 34 g | O.N
solvent | 1,2-dichloroethane | 216 g | ClCCCl | C2H4Cl2
product | bentazone ammonium | 11.8 g | CC(C)N1C(=O)C2=CC=CC=C2NS1(=O)=O.[NH4+] | InChI=1S/C10H12N2O3S.H3N/c1-7(2)12-10(13)8-5-3-4-6-9(8)11-16(12,14)15;/h3-7,11H,1-2H3;1H3/p+1
